US06130217
2-(Thiazol-2-yl)phenol
The title compound was prepared according to the method in Z. Naturforsh. 376, 877-880 (1982) or Helv. Chim. Acta 36, 886-890 (1953). o-Cyanophenol (55 mmol, 6.55 g) in EtOAc (160 mL) was treated with diethyl dithiophosphate (9.15 mL, 55 mmol) and HCl(g) was bubbled into the stirred solution at a moderate rate for about 45 min. without external cooling. After stirring at about 20° C. under N2 (g) for about 16 h., excess HCl was removed by N2 (g) sparge and saturated aqueous Na2CO3 (100 mL) was added carefully with stirring. The organic phase was separated and washed (3×) with saturated Na2CO3 until no further orange color resulted in the aqueous phases. The organic phase was dried over Na2SO4 (s) and concentrated in vacuo. An orange crystalline impurity (~3.0 g; m.p. 215° C., El-MS m/z 255) precipitated upon addition of ether and was removed by filtration. The filtrate was concentrated in vacuo and recrystallized from Et2O/hexanes to afford 2.9 g (m.p. 117° C.; GC-MS m/z 153) of the desired thioamide. This material (2.0 g, 13 mmol) was dissolved in EtOH (5 mL) and α-bromoacetaldehyde dimethyl acetal (1.55 mL, 13 mmol) was added. The mixture was refluxed under N2 (g) atmosphere for 3.5 h. and Et2O (15 mL) was added to complete the precipitation of the 2-(thiazol-2-yl)phenol as its hydrobromide salt which was recrystallized from MeOH/CHCl3 /Et2O to produce 1.55 g of pure HBr salt (LSIMS m/z 178 (MH+)). This material could be alkylated directly if an extra equivalent of base was included to neutralize the HBr, or it could be free-based by extraction from saturated aqueous NaHCO3 with Et2O followed by drying over Na2SO4 (s) and concentration of etheral phases in vacuo.

reactant | o-Cyanophenol | 55 mmol, 6.55 g | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | diethyl dithiophosphate | 55 mmol, 9.15 mL | P(=S)(SCC)(OCC)[O-]
reactant | HCl | Cl | ClH
solvent | EtOAc | 160 mL | CCOC(=O)C | C4H8O2
product | 2-(Thiazol-2-yl)phenol | S1C(=NC=C1)C1=C(C=CC=C1)O | C9H7NOS
